US08389539B2
2-[2-(4-Cyclopropyl-phenyl)-1-oxo-2,8-diaza-spiro[4.5]dec-8-yl]-N-ethyl-acetamide
A mixture of mg 42.7 mg (0.13 mmol) [2-(4-Cyclopropyl-phenyl)-1-oxo-2,8-diaza-spiro[4.5]dec-8-yl]-acetic acid, 54.2 mg (0.195 mmol) TBTU, 26 mg (0.26 mmol) NEt3 and 8.7 mg (0.195 mmol) ethylamine in 2 mL DMF was stirred at room temperature for 16 h and evaporated to dryness. The residue was taken up in DMF and subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and NEt3. The product containing fractions were evaporated to yield 16.2 mg (35%) of the title compound. MS m/e: 356.3 [M+H]+.

reactant | [2-(4-Cyclopropyl-phenyl)-1-oxo-2,8-diaza-spiro[4.5]dec-8-yl]-acetic acid | 0.13 mmol, 42.7 mg | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCN(CC2)CC(=O)O)=O | C19H24N2O3
reactant | TBTU | 0.195 mmol, 54.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NEt3 | 0.26 mmol, 26 mg | CCN(CC)CC | C6H15N
reactant | ethylamine | 0.195 mmol, 8.7 mg | C(C)N | C2H7N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[2-(4-Cyclopropyl-phenyl)-1-oxo-2,8-diaza-spiro[4.5]dec-8-yl]-N-ethyl-acetamide | 16.2 mg, 35% | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCN(CC2)CC(=O)NCC)=O | C21H29N3O2
